US06372764B1
1Benzyl-3-(RS)-hydroxymethyl4-(RS)-trifluoromethyl pyrrolidine
To a solution of 1.8 g (6 mmol) of 1-benzyl-3-(RS)-carboethoxy-4-(RS)-trifluoromethylpyrrolidine in 20 mL of THF at 0° C. was added 4.8 mL (4.8 mmol) of a 1M solution of LAH in THF and the reaction was stirred at rt for 30 min. The reaction mixture was quenched with 5N NaOH solution and extracted with ether. The combined organic fractions were washed with 2N NaOH solution and sat'd NaCl solution, dried over Na2SO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, acetone:hexanes, 1:8) to give 1.5 g of the title compound. 1H NMR (CDCl3) δ (key peaks) 7.28-7.37 (m, 5H), 3.76 (d of d, 1H, J=3.5, 10.5 Hz), 3.63 (s, 2H), 3.62 (d of d, 1H, J=5.0, 10.5 Hz), 3.11 (t, 1H, J=9.0 Hz), 2.60 (t, 1H, J=7.0 Hz), 2.45-2.49 (m, 1H), 2.42 (d of d, 1H, J=7.5, 9.5 Hz).

reactant | 1-benzyl-3-(RS)-carboethoxy-4-(RS)-trifluoromethylpyrrolidine | 6 mmol, 1.8 g | C(C1=CC=CC=C1)N1CC(C(C1)C(F)(F)F)C(=O)OCC | C15H18F3NO2
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1Benzyl-3-(RS)-hydroxymethyl4-(RS)-trifluoromethyl pyrrolidine | 1.5 g | C(C1=CC=CC=C1)N1CC(C(C1)C(F)(F)F)CO | C13H16F3NO
